US08975400B2
4-(4-chloro-3-fluorophenoxy)-3,5-difluorobenzaldehyde
The title compound was prepared by a procedure similar to that described for D4 starting from 3,4,5-trifluorobenzaldehyde (1.0 g, 6.25 mmol),)4-chloro-3-fluorophenol.

reactant | 3,4,5-trifluorobenzaldehyde | 6.25 mmol, 1.0 g | FC=1C=C(C=O)C=C(C1F)F | C7H3F3O
reactant | 4-chloro-3-fluorophenol | ClC1=C(C=C(C=C1)O)F | C6H4ClFO
product | 4-(4-chloro-3-fluorophenoxy)-3,5-difluorobenzaldehyde | ClC1=C(C=C(OC2=C(C=C(C=O)C=C2F)F)C=C1)F | C13H6ClF3O2
